US07662964B2
The present invention is related to a process for the preparation of [1,4′]bipiperidinyl-1′-carbonyl chloride or its hydrochloride, which is a useful intermediate e.g. in the preparation of irinotecan. The use of methylene chloride as a solvent in the reaction of 4-piperidinopiperidine with phosgene and the removal of the reaction solvent by using an additional distillation solvent to raise the distillation temperature gives [1,4′]bipiperidinyl-1′-carbonyl chloride hydrochloride in high yield and purity. The amount of dimer impurity will be less than 5%, even less than 1%.

reactant | [1,4′]bipiperidinyl-1′-carbonyl chloride | N1(CCCCC1)C1CCN(CC1)C(=O)Cl | C11H19ClN2O
reactant | hydrochloride | Cl | ClH
reactant | irinotecan | CCC1=C2C=C(C=CC2=NC3=C1CN4C3=CC5=C(C4=O)COC(=O)[C@@]5(CC)O)OC(=O)N6CCC(CC6)N7CCCCC7 | C33H38N4O6
reactant | 4-piperidinopiperidine | N1(CCCCC1)C1CCNCC1 | C10H20N2
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | [1,4′]bipiperidinyl-1′-carbonyl chloride hydrochloride | Cl.N1(CCCCC1)C1CCN(CC1)C(=O)Cl | InChI=1S/C11H19ClN2O.ClH/c12-11(15)14-8-4-10(5-9-14)13-6-2-1-3-7-13;/h10H,1-9H2;1H
